US05550134
(+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one
A 15 mL round bottom flask was charged with (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one (200 mg, 0.65 mmol), tetrakis (triphenylphosphine) palladium (0) (23 mg, 0.02 mmol), 3-aminophenylboronic acid hemisulfate (181 mg, 0.78 mmol), 1.0 mL of 2M sodium carbonate solution, 1.5 mL of toluene, and 1 mL of methanol, fitted with a reflux condenser, and he stirred mixture was heated at 80°, under nitrogen, for 24 h. The mixture was cooled, diluted with dichloromethane (75 mL) and washed with brine (2×25 mL). The combined organic extracts were dried over sodium sulfate, concentrated, and purified by silica gel chromatography (ethyl acetate eluent), to give 170 mg (82%) of the title compound as a tan solid. mp 230°-231° (decomp.) FDMS: m/e=320. α[D]589 =+80.00 (c=1.05, methanol ).

reactant | (+)-(4aR)-(10bR)-4-methyl-8-bromo-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 0.65 mmol, 200 mg | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)Br)C)=O | C15H18BrNO
reactant | 3-aminophenylboronic acid hemisulfate | 0.78 mmol, 181 mg | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | sodium carbonate | 2M, 1.0 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | toluene | 1.5 mL | C1(=CC=CC=C1)C | C7H8
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
catalyst | tetrakis (triphenylphosphine) palladium (0) | 0.02 mmol, 23 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | methanol | 1 mL | CO | CH4O
product | (+)-(4aR)-(10bR)-4-methyl-8-(3-aminophenyl)-10b-methyl-1,2,3,4,4a,5,6,10b-octahydrobenzo[f]quinolin-3-one | 170 mg, 82% | CN1C(CC[C@@]2(C3=C(CC[C@@H]12)C=C(C=C3)C3=CC(=CC=C3)N)C)=O | C21H24N2O
